US07199135B2
N-[5-(1-{3-[(diphenylacetyl)amino]propyl}-4-piperidinyl)-3-pyridinyl]-2-methyl propanamide:
Example 170 was prepared from N-(3-bromopropyl)-2,2-diphenylacetamide and 2-methyl-N-[5-(4-piperidinyl)-3-pyridinyl]propanamide according to the procedures described in Scheme 14: 1H NMR (400 MHz, CDCl3) δ 8.47–8.42 (m, 1 H), 8.21–8.16 (m, 1 H), 8.09 (s, 1 H), 7.59 (s, 1 H), 7.35–7.20 (m, 10 H), 6.87 (s, 1 H), 4.91 (s, 1 H), 3.46–3.36 (m, 2 H), 3.01–2.92 (m, 2 H), 2.62–2.47 (m, 2 H), 2.47–2.37 (m, 2 H), 2.11–1.94 (m, 4 H), 1.86–1.59 (m, 4 H), 1.25 (d, 6 H, J=7.2 Hz); ESMS m/e: 499.4 (M+H)+.

reactant | N-(3-bromopropyl)-2,2-diphenylacetamide | BrCCCNC(C(C1=CC=CC=C1)C1=CC=CC=C1)=O | C17H18BrNO
reactant | 2-methyl-N-[5-(4-piperidinyl)-3-pyridinyl]propanamide | CC(C(=O)NC=1C=NC=C(C1)C1CCNCC1)C | C14H21N3O
product | N-[5-(1-{3-[(diphenylacetyl)amino]propyl}-4-piperidinyl)-3-pyridinyl]-2-methyl propanamide | C1(=CC=CC=C1)C(C(=O)NCCCN1CCC(CC1)C=1C=C(C=NC1)NC(C(C)C)=O)C1=CC=CC=C1 | C31H38N4O2
